US04636516
By following the same procedure as in Example 10 using 0.32 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-thioxo-4-imidazoline, 10 ml of dry acetone, 0.15 g of potassium carbonate, and 0.15 g of methyl iodide and recrystallizing the product from cyclohexane, 0.1 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-methylthioimidazole was obtained.

reactant | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-thioxo-4-imidazoline | 0.32 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1C)=S | C18H26N2OS
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.15 g | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-methylthioimidazole | 0.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(NC1C)SC | C19H28N2OS
